* OVERALL BEST CANDIDATE: 00_Phase_3_300V_to_15V_Servo_Rail_Buck_g3_cand2_b8
* FITNESS SCORE: 0.6171
*
* Generated: 2026-06-05T17:02:59
* Constraint: Phase 3: 300V to 15V Servo Rail (Buck)
*   vin_min = 280
*   vin_max = 320
*   vout_target = 15
*   efficiency_target = 0.93
*   power_in = 350
* Candidate: 8 of 12
* Grouped name: g3_cand2
*
* 280V to 15V Buck, 350W
Vin in 0 280
M1 in gate sw 0 NMOS W=1 L=1
D1 0 sw DIODE
L1 sw out 47u
C1 out 0 100u
Rload out 0 0.643
Vgate gate 0 PULSE(0 12 0 1n 1n 9.16u 10u)
.model NMOS NMOS(Vto=1 Kp=2 Lambda=0)
.model DIODE D
.tran 10n 1m
.save V(*) I(*)
.end
